* Ideal crossbar read-energy validation
* rows=128 cols=128 pulse_ns=10
* Each row is collapsed to an equivalent conductance because columns are ideal virtual ground.
Vrow0 row0 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow1 row1 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow2 row2 0 PULSE(0 0.00852747440153 0 0.001n 0.001n 10n 30n)
Vrow3 row3 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow4 row4 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow5 row5 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow6 row6 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow7 row7 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow8 row8 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow9 row9 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow10 row10 0 PULSE(0 0.0147754599767 0 0.001n 0.001n 10n 30n)
Vrow11 row11 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow12 row12 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow13 row13 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow14 row14 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow15 row15 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow16 row16 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow17 row17 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow18 row18 0 PULSE(0 0.0155632042751 0 0.001n 0.001n 10n 30n)
Vrow19 row19 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow20 row20 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow21 row21 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow22 row22 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow23 row23 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow24 row24 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow25 row25 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow26 row26 0 PULSE(0 0.050322057362 0 0.001n 0.001n 10n 30n)
Vrow27 row27 0 PULSE(0 0.00251967078456 0 0.001n 0.001n 10n 30n)
Vrow28 row28 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow29 row29 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow30 row30 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow31 row31 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow32 row32 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow33 row33 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow34 row34 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow35 row35 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow36 row36 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow37 row37 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow38 row38 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow39 row39 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow40 row40 0 PULSE(0 0.00804257595155 0 0.001n 0.001n 10n 30n)
Vrow41 row41 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow42 row42 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow43 row43 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow44 row44 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow45 row45 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow46 row46 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow47 row47 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow48 row48 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow49 row49 0 PULSE(0 0.1 0 0.001n 0.001n 10n 30n)
Vrow50 row50 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow51 row51 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow52 row52 0 PULSE(0 0.0623346113136 0 0.001n 0.001n 10n 30n)
Vrow53 row53 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow54 row54 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow55 row55 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow56 row56 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow57 row57 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow58 row58 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow59 row59 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow60 row60 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow61 row61 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow62 row62 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow63 row63 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow64 row64 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow65 row65 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow66 row66 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow67 row67 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow68 row68 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow69 row69 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow70 row70 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow71 row71 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow72 row72 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow73 row73 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow74 row74 0 PULSE(0 0.0566284101124 0 0.001n 0.001n 10n 30n)
Vrow75 row75 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow76 row76 0 PULSE(0 0.0110582651178 0 0.001n 0.001n 10n 30n)
Vrow77 row77 0 PULSE(0 0.0032886884761 0 0.001n 0.001n 10n 30n)
Vrow78 row78 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow79 row79 0 PULSE(0 0.029564956358 0 0.001n 0.001n 10n 30n)
Vrow80 row80 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow81 row81 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow82 row82 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow83 row83 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow84 row84 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow85 row85 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow86 row86 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow87 row87 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow88 row88 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow89 row89 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow90 row90 0 PULSE(0 0.0271617443868 0 0.001n 0.001n 10n 30n)
Vrow91 row91 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow92 row92 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow93 row93 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow94 row94 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow95 row95 0 PULSE(0 0.0077270905625 0 0.001n 0.001n 10n 30n)
Vrow96 row96 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow97 row97 0 PULSE(0 0.0104974085969 0 0.001n 0.001n 10n 30n)
Vrow98 row98 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow99 row99 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow100 row100 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow101 row101 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow102 row102 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow103 row103 0 PULSE(0 0.0326092758003 0 0.001n 0.001n 10n 30n)
Vrow104 row104 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow105 row105 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow106 row106 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow107 row107 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow108 row108 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow109 row109 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow110 row110 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow111 row111 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow112 row112 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow113 row113 0 PULSE(0 0.0638613138791 0 0.001n 0.001n 10n 30n)
Vrow114 row114 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow115 row115 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow116 row116 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow117 row117 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow118 row118 0 PULSE(0 0.025940098998 0 0.001n 0.001n 10n 30n)
Vrow119 row119 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow120 row120 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow121 row121 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow122 row122 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow123 row123 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow124 row124 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow125 row125 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow126 row126 0 PULSE(0 0.00870539778388 0 0.001n 0.001n 10n 30n)
Vrow127 row127 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Reqrow0 row0 0 204.019110129
Reqrow1 row1 0 213.783866253
Reqrow2 row2 0 231.661356907
Reqrow3 row3 0 232.099007715
Reqrow4 row4 0 211.10011791
Reqrow5 row5 0 229.695636014
Reqrow6 row6 0 214.911273258
Reqrow7 row7 0 218.65422149
Reqrow8 row8 0 209.490865019
Reqrow9 row9 0 229.235783464
Reqrow10 row10 0 194.735176682
Reqrow11 row11 0 216.734125808
Reqrow12 row12 0 205.885786711
Reqrow13 row13 0 203.311444614
Reqrow14 row14 0 209.801464214
Reqrow15 row15 0 232.61315014
Reqrow16 row16 0 202.785340457
Reqrow17 row17 0 220.793172634
Reqrow18 row18 0 221.110387233
Reqrow19 row19 0 221.858102684
Reqrow20 row20 0 233.4457709
Reqrow21 row21 0 214.894650984
Reqrow22 row22 0 223.482769634
Reqrow23 row23 0 220.629173448
Reqrow24 row24 0 196.535991085
Reqrow25 row25 0 209.894845236
Reqrow26 row26 0 218.401869035
Reqrow27 row27 0 211.197496293
Reqrow28 row28 0 201.027630448
Reqrow29 row29 0 245.4037228
Reqrow30 row30 0 247.614442522
Reqrow31 row31 0 214.192017255
Reqrow32 row32 0 194.433582477
Reqrow33 row33 0 210.126858304
Reqrow34 row34 0 215.485816266
Reqrow35 row35 0 209.243617805
Reqrow36 row36 0 205.637105432
Reqrow37 row37 0 208.6788846
Reqrow38 row38 0 211.154758977
Reqrow39 row39 0 226.486317261
Reqrow40 row40 0 212.479874668
Reqrow41 row41 0 208.832916499
Reqrow42 row42 0 223.092592203
Reqrow43 row43 0 236.144791788
Reqrow44 row44 0 223.221697456
Reqrow45 row45 0 220.24410185
Reqrow46 row46 0 224.835722827
Reqrow47 row47 0 219.486394102
Reqrow48 row48 0 209.101659622
Reqrow49 row49 0 206.377631929
Reqrow50 row50 0 210.214913219
Reqrow51 row51 0 194.249283098
Reqrow52 row52 0 226.650282692
Reqrow53 row53 0 217.342012864
Reqrow54 row54 0 197.720792372
Reqrow55 row55 0 227.931281008
Reqrow56 row56 0 226.314835659
Reqrow57 row57 0 207.213687588
Reqrow58 row58 0 203.85553947
Reqrow59 row59 0 235.150184641
Reqrow60 row60 0 222.21100072
Reqrow61 row61 0 191.957515446
Reqrow62 row62 0 233.602651765
Reqrow63 row63 0 208.500468268
Reqrow64 row64 0 231.550426336
Reqrow65 row65 0 206.057960066
Reqrow66 row66 0 210.078989226
Reqrow67 row67 0 193.021777311
Reqrow68 row68 0 243.093662346
Reqrow69 row69 0 218.416493008
Reqrow70 row70 0 213.970288043
Reqrow71 row71 0 218.993847712
Reqrow72 row72 0 202.60820567
Reqrow73 row73 0 208.873305654
Reqrow74 row74 0 213.133147706
Reqrow75 row75 0 189.858278197
Reqrow76 row76 0 225.956132471
Reqrow77 row77 0 241.551504445
Reqrow78 row78 0 203.456672888
Reqrow79 row79 0 225.910478489
Reqrow80 row80 0 206.429049067
Reqrow81 row81 0 213.06281975
Reqrow82 row82 0 208.179460184
Reqrow83 row83 0 229.745597244
Reqrow84 row84 0 222.055384599
Reqrow85 row85 0 202.995001575
Reqrow86 row86 0 212.625693256
Reqrow87 row87 0 223.274660083
Reqrow88 row88 0 260.565828824
Reqrow89 row89 0 228.785879146
Reqrow90 row90 0 194.079549421
Reqrow91 row91 0 215.002602002
Reqrow92 row92 0 208.698967903
Reqrow93 row93 0 209.587108967
Reqrow94 row94 0 218.314454078
Reqrow95 row95 0 208.77469929
Reqrow96 row96 0 227.183647612
Reqrow97 row97 0 224.844491119
Reqrow98 row98 0 188.125631638
Reqrow99 row99 0 222.849126196
Reqrow100 row100 0 209.714634161
Reqrow101 row101 0 229.981443578
Reqrow102 row102 0 205.226588884
Reqrow103 row103 0 215.221543112
Reqrow104 row104 0 255.187762325
Reqrow105 row105 0 203.307497945
Reqrow106 row106 0 213.91711391
Reqrow107 row107 0 226.216246683
Reqrow108 row108 0 226.490034571
Reqrow109 row109 0 203.054211155
Reqrow110 row110 0 233.383376792
Reqrow111 row111 0 227.704892809
Reqrow112 row112 0 213.320393614
Reqrow113 row113 0 208.725112256
Reqrow114 row114 0 204.426506011
Reqrow115 row115 0 223.426191384
Reqrow116 row116 0 235.490592636
Reqrow117 row117 0 211.185036658
Reqrow118 row118 0 201.818453898
Reqrow119 row119 0 213.255115222
Reqrow120 row120 0 249.875827752
Reqrow121 row121 0 217.485743158
Reqrow122 row122 0 193.673568686
Reqrow123 row123 0 205.073953579
Reqrow124 row124 0 213.88545078
Reqrow125 row125 0 203.536978707
Reqrow126 row126 0 227.056032819
Reqrow127 row127 0 221.698144622
Bpwr pwr 0 v = (v(row0)*v(row0)/204.019110129) + (v(row1)*v(row1)/213.783866253) + (v(row2)*v(row2)/231.661356907) + (v(row3)*v(row3)/232.099007715) + (v(row4)*v(row4)/211.10011791) + (v(row5)*v(row5)/229.695636014) + (v(row6)*v(row6)/214.911273258) + (v(row7)*v(row7)/218.65422149) + (v(row8)*v(row8)/209.490865019) + (v(row9)*v(row9)/229.235783464) + (v(row10)*v(row10)/194.735176682) + (v(row11)*v(row11)/216.734125808) + (v(row12)*v(row12)/205.885786711) + (v(row13)*v(row13)/203.311444614) + (v(row14)*v(row14)/209.801464214) + (v(row15)*v(row15)/232.61315014) + (v(row16)*v(row16)/202.785340457) + (v(row17)*v(row17)/220.793172634) + (v(row18)*v(row18)/221.110387233) + (v(row19)*v(row19)/221.858102684) + (v(row20)*v(row20)/233.4457709) + (v(row21)*v(row21)/214.894650984) + (v(row22)*v(row22)/223.482769634) + (v(row23)*v(row23)/220.629173448) + (v(row24)*v(row24)/196.535991085) + (v(row25)*v(row25)/209.894845236) + (v(row26)*v(row26)/218.401869035) + (v(row27)*v(row27)/211.197496293) + (v(row28)*v(row28)/201.027630448) + (v(row29)*v(row29)/245.4037228) + (v(row30)*v(row30)/247.614442522) + (v(row31)*v(row31)/214.192017255) + (v(row32)*v(row32)/194.433582477) + (v(row33)*v(row33)/210.126858304) + (v(row34)*v(row34)/215.485816266) + (v(row35)*v(row35)/209.243617805) + (v(row36)*v(row36)/205.637105432) + (v(row37)*v(row37)/208.6788846) + (v(row38)*v(row38)/211.154758977) + (v(row39)*v(row39)/226.486317261) + (v(row40)*v(row40)/212.479874668) + (v(row41)*v(row41)/208.832916499) + (v(row42)*v(row42)/223.092592203) + (v(row43)*v(row43)/236.144791788) + (v(row44)*v(row44)/223.221697456) + (v(row45)*v(row45)/220.24410185) + (v(row46)*v(row46)/224.835722827) + (v(row47)*v(row47)/219.486394102) + (v(row48)*v(row48)/209.101659622) + (v(row49)*v(row49)/206.377631929) + (v(row50)*v(row50)/210.214913219) + (v(row51)*v(row51)/194.249283098) + (v(row52)*v(row52)/226.650282692) + (v(row53)*v(row53)/217.342012864) + (v(row54)*v(row54)/197.720792372) + (v(row55)*v(row55)/227.931281008) + (v(row56)*v(row56)/226.314835659) + (v(row57)*v(row57)/207.213687588) + (v(row58)*v(row58)/203.85553947) + (v(row59)*v(row59)/235.150184641) + (v(row60)*v(row60)/222.21100072) + (v(row61)*v(row61)/191.957515446) + (v(row62)*v(row62)/233.602651765) + (v(row63)*v(row63)/208.500468268) + (v(row64)*v(row64)/231.550426336) + (v(row65)*v(row65)/206.057960066) + (v(row66)*v(row66)/210.078989226) + (v(row67)*v(row67)/193.021777311) + (v(row68)*v(row68)/243.093662346) + (v(row69)*v(row69)/218.416493008) + (v(row70)*v(row70)/213.970288043) + (v(row71)*v(row71)/218.993847712) + (v(row72)*v(row72)/202.60820567) + (v(row73)*v(row73)/208.873305654) + (v(row74)*v(row74)/213.133147706) + (v(row75)*v(row75)/189.858278197) + (v(row76)*v(row76)/225.956132471) + (v(row77)*v(row77)/241.551504445) + (v(row78)*v(row78)/203.456672888) + (v(row79)*v(row79)/225.910478489) + (v(row80)*v(row80)/206.429049067) + (v(row81)*v(row81)/213.06281975) + (v(row82)*v(row82)/208.179460184) + (v(row83)*v(row83)/229.745597244) + (v(row84)*v(row84)/222.055384599) + (v(row85)*v(row85)/202.995001575) + (v(row86)*v(row86)/212.625693256) + (v(row87)*v(row87)/223.274660083) + (v(row88)*v(row88)/260.565828824) + (v(row89)*v(row89)/228.785879146) + (v(row90)*v(row90)/194.079549421) + (v(row91)*v(row91)/215.002602002) + (v(row92)*v(row92)/208.698967903) + (v(row93)*v(row93)/209.587108967) + (v(row94)*v(row94)/218.314454078) + (v(row95)*v(row95)/208.77469929) + (v(row96)*v(row96)/227.183647612) + (v(row97)*v(row97)/224.844491119) + (v(row98)*v(row98)/188.125631638) + (v(row99)*v(row99)/222.849126196) + (v(row100)*v(row100)/209.714634161) + (v(row101)*v(row101)/229.981443578) + (v(row102)*v(row102)/205.226588884) + (v(row103)*v(row103)/215.221543112) + (v(row104)*v(row104)/255.187762325) + (v(row105)*v(row105)/203.307497945) + (v(row106)*v(row106)/213.91711391) + (v(row107)*v(row107)/226.216246683) + (v(row108)*v(row108)/226.490034571) + (v(row109)*v(row109)/203.054211155) + (v(row110)*v(row110)/233.383376792) + (v(row111)*v(row111)/227.704892809) + (v(row112)*v(row112)/213.320393614) + (v(row113)*v(row113)/208.725112256) + (v(row114)*v(row114)/204.426506011) + (v(row115)*v(row115)/223.426191384) + (v(row116)*v(row116)/235.490592636) + (v(row117)*v(row117)/211.185036658) + (v(row118)*v(row118)/201.818453898) + (v(row119)*v(row119)/213.255115222) + (v(row120)*v(row120)/249.875827752) + (v(row121)*v(row121)/217.485743158) + (v(row122)*v(row122)/193.673568686) + (v(row123)*v(row123)/205.073953579) + (v(row124)*v(row124)/213.88545078) + (v(row125)*v(row125)/203.536978707) + (v(row126)*v(row126)/227.056032819) + (v(row127)*v(row127)/221.698144622)
.control
set filetype=ascii
tran 0.05n 10.002n
meas tran energy INTEG v(pwr) FROM=0n TO=10.002n
wrdata experiments/spice/results/cmm_crosssim_read_energy/spice_validation/low_layers_0_ffn_3_r0c0.dat v(pwr)
quit
.endc
.end
